US04965286
20 g (0.27 mol) of n-butylamine are dissolved in 100 ml of acetonitrile, and 7.8 g (0.04 mol) of 2-methylpropyl bromoacetate are added at 20° C. The mixture is stirred for 2 hours at 20° C. and subjected to rotary evaporation, the residue is taken up in methylene chloride/water, the organic phase is dried and subjected to rotary evaporation, and the residue is filtered over silica gel (eluent hexane:acetone=7:3). 5.3 g (71% of theory) of 2-methyl-propyl N-butylaminoacetate are obtained.

reactant | n-butylamine | 0.27 mol, 20 g | C(CCC)N | C4H11N
reactant | 2-methylpropyl bromoacetate | 0.04 mol, 7.8 g | BrCC(=O)OCC(C)C | C6H11BrO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-methyl-propyl N-butylaminoacetate | 5.3 g, 71% | C(CCC)NCC(=O)OCC(C)C | C10H21NO2
